US07517987B2
Step Y: (2S)-2-[1-(3-chloro-benzyl)-2-oxo-1,4-dihydro-2H-quinazolin-3-yl]-3-Methyl-butyric acid tert-butyl ester
To a mixture of (2S)-3-methyl-2-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-butyric acid tert-butyl ester (633 mg, 2.08 mmol) and 3-chlorobenzyl bromide (470 mg, 2.29 mmol) in DMSO (10 mL) was added sodium hydride (75 mg, 1.87 mmol) and the reaction mixture was stirred at room temperature for 40 hours. To this reaction was then added sat. aq. NH4Cl and the mixture was extracted with ethyl acetate. The organic phase was dried (MgSO4), filtered and evaporated.

reactant | (2S)-3-methyl-2-(2-oxo-1,4-dihydro-2H-quinazolin-3-yl)-butyric acid tert-butyl ester | 2.08 mmol, 633 mg | C(C)(C)(C)OC([C@H](C(C)C)N1C(NC2=CC=CC=C2C1)=O)=O | C17H24N2O3
reactant | 3-chlorobenzyl bromide | 2.29 mmol, 470 mg | ClC=1C=C(CBr)C=CC1 | C7H6BrCl
reactant | sodium hydride | 1.87 mmol, 75 mg | [H-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
product | (2S)-2-[1-(3-chloro-benzyl)-2-oxo-1,4-dihydro-2H-quinazolin-3-yl]-3-Methyl-butyric acid tert-butyl ester | C(C)(C)(C)OC([C@H](C(C)C)N1C(N(C2=CC=CC=C2C1)CC1=CC(=CC=C1)Cl)=O)=O | C24H29ClN2O3
